US04267317
In a reactor, 15 g of toluene and 15 g of water was charged in a reactor and then, 12.7 g (0.05 mole) of 4-(4-trifluoromethylphenoxy)phenol, 14.3 g (0.055 mole) of 3,4-dibromopentanoic acid, 16.6 g (0.12 mole) of potassium carbonate and 0.23 g (0.001 mole) of triethylbenzylammonium chloride were added. They were refluxed for 6 hours to react them and then, conc. hydrochloric acid was added to the reaction mixture with stirring to be acidic and then, the water phase was separated and the organic phase was washed with water and then, toluene and low boiling by-products were distilled off at 100° C. under a reduced pressure (0.02-0.05 mmHg) to obtain 14.8 g of 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoic acid (nD20 1.5284). The yield was 84.2%.

reactant | 4-(4-trifluoromethylphenoxy)phenol | 0.05 mole, 12.7 g | FC(C1=CC=C(OC2=CC=C(C=C2)O)C=C1)(F)F | C13H9F3O2
reactant | 3,4-dibromopentanoic acid | 0.055 mole, 14.3 g | BrC(CC(=O)O)C(C)Br | C5H8Br2O2
reactant | potassium carbonate | 0.12 mole, 16.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
catalyst | triethylbenzylammonium chloride | 0.001 mole, 0.23 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | 15 g | O | H2O
solvent | toluene | 15 g | C1(=CC=CC=C1)C | C7H8
product | 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoic acid | 14.8 g, yield was 84.2% | FC(C1=CC=C(OC2=CC=C(OC(C=CC(=O)O)C)C=C2)C=C1)(F)F | C18H15F3O4
